US07132425B2
A solution of 5-methylpyrazine-2-carboxylic acid (5.0 g, 36.2 mmol), N,N-dimethylformamide dimethyl acetal (15 mL, 113 mmol) and N,N-dimethylformamide (15 mL) was heated with stirring in an oil-bath at 90° C. under argon for 60 min. The temperature of the oil-bath was raised to 120° C., and the heating and stirring continued for an additional 120 min. The reaction mixture was then cooled to 25° C. and concentrated in vacuo to a volume of about 10 mL. The oily residue was partitioned with water (50 mL) and ethyl acetate (50 mL). The aqueous phase was further extracted with ethyl acetate (2×50 mL), and each organic extract was washed with a portion of a saturated aqueous sodium chloride solution (25 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo to a dark oil. The residue was treated with a solution of diethyl ether/hexanes (50 mL, 3:2) to produce an orange solid. The solid was collected by filtration and washed with a mixture of diethyl ether/hexanes (25 mL, 1:1) to afford 5-(2-dimethylamino-vinyl)-pyrazine-2-carboxylic acid methyl ester (4.94 g, 66%) as a bright orange solid.

reactant | 5-methylpyrazine-2-carboxylic acid | 36.2 mmol, 5.0 g | CC=1N=CC(=NC1)C(=O)O | C6H6N2O2
reactant | N,N-dimethylformamide dimethyl acetal | 113 mmol, 15 mL | COC(N(C)C)OC | C5H13NO2
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 5-(2-dimethylamino-vinyl)-pyrazine-2-carboxylic acid methyl ester | 4.94 g, 66% | COC(=O)C1=NC=C(N=C1)C=CN(C)C | C10H13N3O2
